US06703391B2
N-(1,2,3,4-tetrahydro-2-methyl-5-isoquinolinyl)-acetamide
A solution of 5-nitroisoquinoline (200 g, 1.15 mol) in 1000 mL of dimethylformamide was treated with dimethylsulfate (160 g, 1.27 mol), and the resulting solution was heated to 90° C. until no starting material remained. The reaction mixture was cooled and concentrated. The residue was dissolved in 1500 mL of methanol and hydrogenated over PtO2 (1.0 g) at 52 psi for 15.5 hours. The reaction mixture was then concentrated and the residue dissolved in CHCl3 (1000 mL) and washed with aqueous 1N NaOH solution (500 mL). The aqueous phase was extracted with an additional 3000 mL of chloroform, and the combined organic extracts were dried (Na2SO4) and concentrated to give an oil. The oil was treated with acetic anhydride (700 mL) and the resulting solution stirred at room temperature overnight. The reaction mixture was concentrated and the residue was dissolved in chloroform and washed with aqueous 1N NaOH solution. The organic phase was dried (Na2SO4) and concentrated. The residue was purified by chromatography (10:2 EtOAc:EtOH). The purified residue was recrystallized from EtOAc to give the product (60.6 g, 26%) as a white solid, mp=138-139° C.

reactant | 5-nitroisoquinoline | 1.15 mol, 200 g | [N+](=O)([O-])C1=C2C=CN=CC2=CC=C1 | C9H6N2O2
reactant | dimethylsulfate | 1.27 mol, 160 g | COS(=O)(=O)OC | C2H6O4S
reactant | acetic anhydride | 700 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dimethylformamide | 1000 mL | CN(C=O)C | C3H7NO
product | N-(1,2,3,4-tetrahydro-2-methyl-5-isoquinolinyl)-acetamide | 60.6 g, 26% | CN1CC2=CC=CC(=C2CC1)NC(C)=O | C12H16N2O
